US08492395B2
To a stirred suspension of 3-(6-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride (0.54 g, 1.6 mmol) in acetonitrile (10 mL), was added 4-dichloro-benzoyl chloride (0.31 mL, 2.4 mmol) and N,N-diisopropyl ethylamine (0.66 mL, 4.0 mmol). The mixture was stirred at room temperature for 30 minutes. The solvent was evaporated, and the residue was purified by flash column chromatography (Silica gel, methanol/methylene chloride 4%/96%) to give 4-chloro-N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-6-ylmethyl]-benzamide as a white solid (298 mg, 42% yield); HPLC, Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 10/90 CH3CN/0.1% H3PO4, gradient to 95/5 in 5 min, kept for 5 min, 6.00 min (99.0%); mp, 267-269° C.; 1HNMR (DMSO-d6) 2.15-2.18 (m, 1H, CHH), 2.57-2.85 (m, 6H, CHCH2, CH3), 4.59 (d, J=5 Hz, 2H, CH2NH), 5.26 (dd, J=6, 11 Hz, 1H, CH), 7.54-7.95 (m, 7H, Ar), 9.24 (t, J=5 Hz, 1H, CH2NH), 11.02 (s, 1H, NH); 13C NMR (DMSO-d6) δ 20.91, 23.40, 30.60, 42.33, 56.52, 120.01, 123.89, 126.62, 128.44, 129.15, 132.84, 134.09, 136.16, 138.02, 145.83, 154.60, 160.43, 165.23, 169.45, 172.60. LCMS MH=439, 441; Anal Calcd For C22H19N4O4Cl+0.3H2O: C, 59.48; H, 4.45; N, 12.61; Cl, 7.98. Found: C, 59.32; H, 4.10; N, 12.50; Cl, 7.99.

reactant | 3-(6-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride | 1.6 mmol, 0.54 g | Cl.NCC=1C=C2C(N(C(=NC2=CC1)C)C1C(NC(CC1)=O)=O)=O
reactant | N,N-diisopropyl ethylamine | 4.0 mmol, 0.66 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4-chloro-N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-6-ylmethyl]-benzamide | 298 mg, 42% yield | ClC1=CC=C(C(=O)NCC=2C=C3C(N(C(=NC3=CC2)C)C2C(NC(CC2)=O)=O)=O)C=C1 | C22H19ClN4O4
